US07410966B2
6-Bromo-2-{4-[(2-chloro-1,3-thiazol-5-yl)methoxy]phenyl}-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 4-[(2-chloro-1,3-thiazol-5-yl)methoxy]benzaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-[(2-chloro-1,3-thiazol-5-yl)methoxy]benzaldehyde | ClC=1SC(=CN1)COC1=CC=C(C=O)C=C1 | C11H8ClNO2S
product | 6-Bromo-2-{4-[(2-chloro-1,3-thiazol-5-yl)methoxy]phenyl}-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCC2=CN=C(S2)Cl | C16H10BrClN4OS
